US05089487
4-Hydroxy-11-methoxy-9-methyl-3-(3-methyl-1-butanonyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one
10.8 ml of a 1M boron tribromide solution in dichloromethane are added dropwise at -70° C. under argon to a solution of 6.2 g (16.1 mmol) of 3-(3-methyl-1-butanonyl)-4,11-dimethoxy-9-methyl-7H-dibenzo[b,g][1,5]-dioxocin-5-one in 160 ml of dichloromethane. After 1.5 h, 6 ml of methanol are added and the solution is brought to room temperature after a further 40 minutes. It is washed with sodium hydrogen carbonate solution and water, dried over magnesium sulphate and concentrated in vacuo. The residue is purified on a silica gel column using petroleum ether/ethyl acetate 6:1.

reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | 3-(3-methyl-1-butanonyl)-4,11-dimethoxy-9-methyl-7H-dibenzo[b,g][1,5]-dioxocin-5-one | 16.1 mmol, 6.2 g | CC(CC(=O)C1=C(C2=C(OC3=C(COC2=O)C=C(C=C3OC)C)C=C1)OC)C | C22H24O6
reactant | methanol | 6 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 4-Hydroxy-11-methoxy-9-methyl-3-(3-methyl-1-butanonyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC1=C(C=CC=2OC3=C(COC(C21)=O)C=C(C=C3OC)C)C(CC(C)C)=O | C21H22O6
